US07625886B2
1h) (R)-2-[4-(4-fluoro-phenyl)-piperazin-1-yl]-1-(4-methyl-2-oxo-2,3-dihydro-b enzoxazol-6-ylmethyl)-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
234 mg (1.30 mmol) 1-(4-fluoro-phenyl)-piperazine were added to a solution of 600 mg (1.18 mmol) (R)-1-carboxy-2-(4-methyl-2-oxo-2,3-dihydrobenz-oxazol-6-yl)-ethyl 4-(2-oxo-1,2,4,5,-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate, 417 mg (1.30 mmol) TBTU, 183 μL (1.30 mmol) triethylamine in 10 mL DMF and the reaction mixture was shaken at RT. The reaction solution was purified by HPLC without any further working up, the fractions containing the product were combined and lyophilised.

reactant | 1-(4-fluoro-phenyl)-piperazine | 1.30 mmol, 234 mg | FC1=CC=C(C=C1)N1CCNCC1 | C10H13FN2
reactant | (R)-1-carboxy-2-(4-methyl-2-oxo-2,3-dihydrobenz-oxazol-6-yl)-ethyl 4-(2-oxo-1,2,4,5,-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | 1.18 mmol, 600 mg | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@H](CC1=CC3=C(NC(O3)=O)C(=C1)C)C(=O)O)C=CC=C2 | C26H28N4O7
reactant | TBTU | 1.30 mmol, 417 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | triethylamine | 1.30 mmol, 183 μL | C(C)N(CC)CC | C6H15N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | (R)-2-[4-(4-fluoro-phenyl)-piperazin-1-yl]-1-(4-methyl-2-oxo-2,3-dihydro-b enzoxazol-6-ylmethyl)-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(=O)N1CCN(CC1)C1=CC=C(C=C1)F)CC1=CC3=C(NC(O3)=O)C(=C1)C)C=CC=C2 | C36H39FN6O6
